US07678156B2
1.1.2 Synthesis of 1-allyl-1,2-dihydro-3,4,6-trimethyl-2-oxopyrimidinium bromide
A mixture of 8.0 g (0.058 mol) of 1,4,6-trimethylpyrimidin-2(1H)-one and 14.0 g (0.116 mol) of allyl bromide were heated together under reflux in acetonitrile for 16 hours under an inert gas atmosphere. After cooling, a violet solid precipitated out, which was filtered off with suction. The product was purified by recrystallization from chloroform/diethyl ether.

reactant | 1,4,6-trimethylpyrimidin-2(1H)-one | 0.058 mol, 8.0 g | CN1C(N=C(C=C1C)C)=O | C7H10N2O
reactant | allyl bromide | 0.116 mol, 14.0 g | C(C=C)Br | C3H5Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-allyl-1,2-dihydro-3,4,6-trimethyl-2-oxopyrimidinium bromide | [Br-].C(C=C)[NH+]1C(N(C(C=C1C)C)C)=O | InChI=1S/C10H16N2O.BrH/c1-5-6-12-9(3)7-8(2)11(4)10(12)13;/h5,7-8H,1,6H2,2-4H3;1H
